* Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\300\verification\sim_DUT2.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map VSIN 42
.node_map VSQR 40
.node_map ISQR 46
.node_map ISIN 44
.node_map BS$0 29
.node_map BS$1 30
.node_map BS$2 31
.node_map BS$3 32
.node_map BSO$0 33
.node_map BSO$1 34
.node_map COMPOUT 38
.node_map BSO$2 35
.node_map BSO$3 36
.node_map VTRI 41
.node_map ITRI 43
.node_map VPWL 37
.node_map IPWL 45
.node_map VPUL 39
.node_map IPUL 47
.node_map GND 48
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 500u 0

.globalvar REF=0.9
.globalvar tdext_khz=1000
.globalvar VIN=5

X$DUT2 38 37 40 44 43 41 29 30 31 32 33 34 35 36 DUT2
X$EXTERNALDUT2 48 39 42 46 44 43 47 45 41 38 33 34 35 36 EXTERNALDUT2

.PRINT V(#VPWL)
.GRAPH :#VPWL curveLabel= VPWL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT I(
.GRAPH FORCEDUT2#ISIN curveLabel="I(FORCEDUT1-ISIN)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT V(#IPWL)
.GRAPH :#IPWL curveLabel= IPWL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe11  
.PRINT V(#ISQR)
.GRAPH :#ISQR curveLabel= ISQR nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe12  
.PRINT V(#IPUL)
.GRAPH :#IPUL curveLabel= IPUL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe13  
.PRINT V(#ITRI)
.GRAPH :#ITRI curveLabel= ITRI nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe14  
.PRINT V(#ISIN)
.GRAPH :#ISIN curveLabel= ISIN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe15  
.PRINT V(#VSQR)
.GRAPH :#VSQR curveLabel= VSQR nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#VPUL)
.GRAPH :#VPUL curveLabel= VPUL nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#VTRI)
.GRAPH :#VTRI curveLabel= VTRI nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#VSIN)
.GRAPH :#VSIN curveLabel= VSIN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT I(
.GRAPH FORCEDUT2#IPWL curveLabel="I(FORCEDUT1-IPWL)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH FORCEDUT2#ISQR curveLabel="I(FORCEDUT1-ISQR)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH FORCEDUT2#IPUL curveLabel="I(FORCEDUT1-IPUL)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(
.GRAPH FORCEDUT2#ITRI curveLabel="I(FORCEDUT1-ITRI)" nowarn=true complete=true analysis=tran|pop disabled=false 
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\300\design\DUT2.sxcmp
.subckt DUT2 58 53 55 57 56 54 59 61 63 65 60 62 64 66
*#hierarchy
.node_map VSQR 55
.node_map ISIN 57
.node_map BUS2$0 51
.node_map BUS2$1 52
.node_map BS$0 59
.node_map BS$1 61
.node_map BS$2 63
.node_map BS$3 65
.node_map BSO$0 60
.node_map BSO$1 62
.node_map BSO$2 64
.node_map COMPOUT 58
.node_map BSO$3 66
.node_map VTRI 54
.node_map ITRI 56
.node_map VPWL 53
X$comparator1 42 53 53 39 56 38 57 40 41 37 comparatornoctlpins vars: comparator_model='comparator' comparator_hysteresismode='fixed' comparator_edge='falling' comparator_speed='fast' comparator_type='p' comparator_deglitch='no' comparator_lowiq='no' comparator_datasheet_name='text' comparator_datasheet_description='text' bgcomp_accuracy='no' bgcomp_outputanalog='supply' bgcomp_note1='Usage' bgcomp_outputdigital='no' bgcomp_trim_name='text' bgcomp_trim_description='text' bgcomp_enable='yes' comparator_dft='no' comparatorsupply_reference='ground' comparatorsupply_threshold='50' comparatorsupply_edge='falling' comparatorsupply_output='analog' comparatorsupply_enable='analog' comparator_hysteresis=20 comparator_lowiqpor=0 bgcomp_threshold=1.2 bgcomp_maxcelpos=6 bgcomp_maxvin=6 comparator_vmax=6
X$delay1 39 58 31 51 52 36 delayclock vars: delay_type='clock' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='bsclock' delayclock_datasheetdescription='bsclock' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$oscillator1 34 53 31 29 27 26 53 28 30 oscillator vars: osc_type='internal' osc_accuracy='no' osc_datasheet_accuracy_name='text' osc_datasheet_accuracy_description='text' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=1k osc_int_duty=50 osc_int_ireplica_gain=0 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1 osc_crude_generatesupply=3.3 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$pinprobe13 56 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 53 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 55 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
.PRINT V(#BS$0)
.GRAPH :#BS$0 curveLabel= U1-i nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#BS$1)
.GRAPH :#BS$1 curveLabel= U2-i nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#BS$2)
.GRAPH :#BS$2 curveLabel= U3-i nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#BS$3)
.GRAPH :#BS$3 curveLabel= U4-i nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
X$U1 60 59 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U13 57 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U16 55 35 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U2 62 61 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U25 31 32 54 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U26 32 33 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U3 64 63 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U4 66 65 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$UPAvpwl 53 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvpwl' dftprobe_description='vpwl' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvsqr 55 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvsqr' dftprobe_description='vsqr' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDclock 33 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDclock' dftprobe_description='clock' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDokcomp 42 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDokcomp' dftprobe_description='ok_comparator' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDokosc 34 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDokosc' dftprobe_description='ok_oscillator' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDsquare 35 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDsquare' dftprobe_description='clock' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends DUT2

** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\300\design\EXTERNALDUT2.sxcmp
.subckt EXTERNALDUT2 68 64 67 72 75 74 73 70 66 76 77 78 79 80
*#hierarchy
.node_map IND 65
.node_map VSIN 67
.node_map ISIN 75
.node_map ISQR 72
.node_map CAP 63
.node_map BSO$0 77
.node_map BSO$1 78
.node_map BSO$2 79
.node_map COMPOUT 76
.node_map BSO$3 80
.node_map RES 69
.node_map VTRI 66
.node_map ITRI 74
.node_map DIODE 71
.node_map IPWL 70
.node_map VPUL 64
.node_map IPUL 73
.node_map GND 68
C1 63 68 100u IC=0
X$D1 71 68 DFLS130L vars: Package='PowerDI123' Partnumber='DFLS130L-7'
L1 65 68 1u
X$pinprobe10 70 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe11 72 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe12 73 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe13 74 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe7 64 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe8 66 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe9 67 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
R1 69 68 50k
R2 64 68 1k
R3 67 68 1k
R4 76 68 100k
R5 70 69 1
R6 72 71 1
R7 73 65 1
R8 74 63 1
R9 75 68 1
X$U13 75 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U2 68 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$UPAcap 63 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAcap' dftprobe_description='cap' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAcompout 76 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAcompout' dftprobe_description='compout' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAdiode 71 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAdiode' dftprobe_description='diode' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAind 65 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAind' dftprobe_description='ind' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAipul 73 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAipul' dftprobe_description='ipul' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAipwl 70 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAipwl' dftprobe_description='ipwl' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAisin 75 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAisin' dftprobe_description='isin' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAisqr 72 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAisqr' dftprobe_description='isqr' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAitri 74 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAitri' dftprobe_description='itri' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAres 69 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAres' dftprobe_description='res' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvpul 64 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvpul' dftprobe_description='vpul' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvsin 67 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvsin' dftprobe_description='sin' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPAvtri 66 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PAvtri' dftprobe_description='vtri' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs0 77 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs0' dftprobe_description='Datamap0' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs1 78 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs1' dftprobe_description='Datamap1' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs2 79 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs2' dftprobe_description='Datamap2' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UPDbs3 80 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='PDbs3' dftprobe_description='Datamap3' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends EXTERNALDUT2

** From Z:\celera\projects\Simplis\playrich\ForceExternals\ForceExternals0\300\design\FORCEDUT2.sxcmp


.end
